US05847234
Sodium biphenyl-4-sulfonate is reacted with about 70% strength by weight NaOH to give sodium 4-phenylphenolate (about 320° C.; 16-26 bar), with the molar ratio of NaOH to biphenyl-4-sulfonate having to be about 10:1. The reaction mixture is diluted to a content of about 12% by weight of 4-hydroxybiphenyl by direct expansion at 320° C. to a water reservoir or by pumping water into the reaction mixture after prior cooling to 200° C. The resulting alkaline 4-hydroxybiphenyl sodium salt suspension is metered into a water reservoir simultaneously with roughly 50% strength by weight H2SO4 at 90° C. and a pH of 5.5. The resulting aqueous Na2SO3 /NaHSO3 -containing 4-hydroxybiphenyl suspension having a content of about 4.3% by weight of 4-hydroxybiphenyl is then heated at 130°-135° C. and about 2 bar for about 2 h, stirred cold at 10 K/h to 100° C. and then further to 60° C. The highly readily filtering coarsely crystalline product is isolated at 60° C. via a glass sinter vacuum filter and washed with water. A virtually colorless flowable non-thixotropic substantially Na2SO4 -free product having a drastically decreased water content of 10-20% by weight is obtained, in comparison with the highly thixotropic product containing 65-70% by weight of H2O obtained without the heating according to the invention.

reactant | Sodium biphenyl-4-sulfonate | C1(=CC=C(C=C1)S(=O)(=O)[O-])C1=CC=CC=C1.[Na+]
reactant | NaOH | [OH-].[Na+]
product | sodium 4-phenylphenolate | C1(=CC=CC=C1)C1=CC=C(C=C1)[O-].[Na+] | InChI=1S/C12H10O.Na/c13-12-8-6-11(7-9-12)10-4-2-1-3-5-10;/h1-9,13H;/q;+1/p-1
